Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old male with metastatic renal cell to 
brain, spine, larynx, liver and lung, s/p avastin, recurrent 
pulmonary emboli on lovenox who was just discharged from ___ 
on ___ s/p hemoarrhagic brain lesion presented to the ED 
after a syncopal episode at ___.  The patient said that he 
woke up this morning at ___ and was slightly 
discumbombulated.  He was offered his morning pain medications 
and took twice his normal ___ dose because he was concerned they 
would not come around again to give him more if he needed it.  
According  to him, he went to the bathroom to use the toilet and 
was sitting down urinating.  The next thing he knew, he was 
waking up propped up against the wall with aides around him.  
(He told my attending that he was freshening up at the sink and 
the next thing he knew, he came to sitting up against the wall). 
 According to the aide at ___, he was found on the ground 
diaphoretic and in a pile of stool, unresponsive for a short 
period of time.  His vitals at the time were T: 95.8, RR: 14, 
HR: 63, BP: 168/101, O2 sat 81% RA and 97% on 4L non-rebreather. 
 Finger stick was 134.  He was transferred back to ___.
.
In the ED, his vitals were T: 97.0, BP: 167/90, HR: 57, RR: 18, 
100% RA.  He was given 500cc NS, CT head w/o contrast showed not 
significant interval change on wet read, CXR was unremarkable 
for PNA, and patient was transferred to the floor for further 
care.

 
Past Medical History:
Bilateral pulmonary emboli ___ and ___
Bilateral pulmonary embolism in ___, on long term 
warfarin 
Left lower pulmonary artery PE ___ --> changed from warfarin 
to lovenox
Resection of pulmonary metastasis ___
Resection of a subglottic metastasis requiring tracheotomy ___
Hypertension since ___
BPH since ___, 
History of colonic adenomas ___ and ___, stable
Hx of pancreatic cyst ___, stable
Stress fracture of right fibula ___
Left eye epithelial retina membrane ___ (slight distortion 
of
lines of vision)
Umbilical hernia since ___
Depression since ___
Left forearm lipoma since ___
Diverticulosis since unknown
.
Oncology History: 
- ___, left lower lobe nodule found on routine scan.
- ___, VATS procedure with resection of the lesion.
- ___, pulmonary recurrence.
- ___, pulmonary resection.
- ___, multiple new lung nodules as well as bony sclerotic
lesions and liver lesion.
- ___, one cycle of interleukin-2 therapy.
- ___, removal of excess subglottic tissue and pathology
was consistent with metastatic renal carcinoma, larynx and
subglottic metastasis resection with a permanent tracheostomy.
- ___, staging MRI mass in the posterior right
temporal lobe.
- ___, CyberKnife radiosurgery to the left
posterior temporal lobe lesion.
- ___, Sutent therapy, progressed on Sutent last dose
in ___.
- ___, gadolinium-enhanced lumbosacral spine MRI showed
left posterior vertebral body L1 metastasis.
- ___, began Avastin, temsirolimus trial ___.
- ___, taken off the trial due to progression of
disease. New nodule seen on CT scan of torso.
- ___, started Avastin monotherapy.
- ___:  Worsening back pain. MRI lumbar spine ___
showed epidural disease at L1.
- Last dose avastin ___
 
Social History:
___
Family History:
Father: congestive heart failure, Mother: leukemia.
 
Physical Exam:
On Admission:
Vitals: T; 96.0, BP: lying 144/90, Standing 118/88; HR: lying 
62, standing 88, RR: 16, 94% RA 
General: NAD, pleasant, appropriate.  
HEENT: EOMI PEERLA, MMM, oropharynx clear  
Neck: trach tube in place, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: +BS, Obese soft, non-tender, non-distended, no 
hepatospleenomegaly.  
Ext: warm, well perfused, 2+ pulses, no edema  
.  
Mental status: Awake and alert, cooperative with exam, normal  
affect.  
Orientation: oriented to person, hospital, year
Language: fluent, no expressive aphashia 
Cranial Nerves:  
I: Not tested  
II: Pupils equally round and reactive to light. Right homonymous 
hemianopsia is noted.  
III, IV, VI: Extraocular movements intact bilaterally without  
nystagmus.  
V, VII: Facial strength and sensation intact and symmetric.  
VIII: Hearing intact to voice.  
IX, X: Palatal elevation symmetrical.  
XI: Sternocleidomastoid and trapezius normal bilaterally.  
XII: Tongue midline without fasciculations.  
.  
Motor: Normal bulk and tone bilaterally. No abnormal movements,  

tremors. Strength full power ___ throughout. No pronator drift  
.  
Cerebellum: intact heel to shin, no dysdiadokinesia  
.  
Sensation: Intact to light touch  
DTRs: Not tested  
___ bilaterally 
.
ON DISCHARGE:
Vitals: T; 99.0/96.7, BP: 121/87; HR: 75, RR: 20, 98% RA  
General: NAD, pleasant, appropriate.  
HEENT: EOMI ___, MMM, oropharynx clear  
Neck: trach tube in place, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: +BS, Obese soft, non-tender, non-distended, no 
hepatospleenomegaly.  
Ext: RLE Normal skin color, enlarged and tense. LLE edema and 
tense to touch. RLE also firm calf, nontender bilaterally, 
palpable ___ pulses with dopplerable DP pulse, LLE 
palpable pulses.  
.  
Mental status: Awake and alert, cooperative with exam, normal  
affect. fluent, no expressive aphashia  
Cranial Nerves: Right temporal hemianopsia stable, CN III-XII 
intact. Strength full power ___ throughout.  
Gait: Not assessed this am  

 
Pertinent Results:
LABS:
CBC:
___ 06:20AM BLOOD WBC-8.4 RBC-4.55* Hgb-14.9 Hct-42.8 
MCV-94 MCH-32.7* MCHC-34.7 RDW-14.5 Plt ___
___ 07:05AM BLOOD WBC-11.5* RBC-3.63* Hgb-12.3* Hct-34.4* 
MCV-95 MCH-33.9* MCHC-35.8* RDW-14.2 Plt ___
___ 06:55AM BLOOD WBC-12.5* RBC-3.42* Hgb-11.1* Hct-31.8* 
MCV-93 MCH-32.6* MCHC-35.0 RDW-14.2 Plt ___
___ 07:10AM BLOOD WBC-11.7* RBC-3.07* Hgb-10.3* Hct-28.8* 
MCV-94 MCH-33.6* MCHC-35.9* RDW-14.3 Plt ___
.
CMP:
___ 06:20AM BLOOD Glucose-100 UreaN-21* Creat-1.0 Na-136 
K-4.4 Cl-104 HCO3-22 AnGap-14
___ 07:05AM BLOOD Glucose-120* UreaN-37* Creat-1.5* Na-130* 
K-4.8 Cl-99 HCO3-20* AnGap-16
___ 07:10AM BLOOD Glucose-109* UreaN-29* Creat-1.1 Na-131* 
K-4.8 Cl-96 HCO3-27 AnGap-13
___ 06:20AM BLOOD Calcium-8.8 Phos-2.6* Mg-2.4
___ 07:05AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.3 Mg-2.4
___ 07:10AM BLOOD Calcium-8.3* Phos-2.8 Mg-3.7*
.
Cortisol:
___ 05:05PM BLOOD Cortsol-1.2*
___ 06:20PM BLOOD Cortsol-24.9*
########################################################
MICRO:
URINE CULTURE (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    >100,000 
ORGANISMS/ML.. 
BLOOD CULTURE ___: NEGATIVE
BLOOD CULTURE ___: NEGATIVE
########################################################
IMAGING:
___: CT HEAD WITHOUT CONTRAST:
1. Unchanged left occipital intraparenchymal hemorrhage, with 
stable 
surrounding vasogenic edema, sulcal effacement, mass effect, and 
right ward midline shift. 
2. No new hemorrhage or fracture 
.
___: CXR (PA & LAT)
1. Overall similar appearance of innumerble pulmonary nodules, 
findings 
consistent with known metastatic disease.   
2. No focal consolidation, pneumothorax or pulmonary edema. 
.
___: LOWER EXTREMITY DUPLEX
Occlusive thrombus extending from the right CFV into the calf 
veins. No clot in the left leg. 
.
___: LEFT EXTREMITY DUPLEX
New DVT extending from the left common femoral vein to the calf 
veins. This is a new finding compared to ___. Findings were 
discussed 
with Dr. ___ completion of the study. 
.
___ MRI L-SPINE
1. Unchanged appearance of the L1 and L3 metastatic lesions with 
epidural 
extension of the L1 lesion.  
2. Unchanged moderate degenerative spinal canal narrowing at 
L2-L3 and L3-L4.  The right paracentral disc extrusion at L4-L5 
is also unchanged with 
impingement upon the right L5 nerve root. 

 
Brief Hospital Course:
Assessment and Plan: A ___ year-old male with metastatic renal 
cell carcinoma w/ recent admission for hemorrhage or metastatic 
brain mass p/w syncopal episode likely ___ drug effect 
complicated by vasovagal event.
.  
# Syncope:  There was initial concern for medication induced 
syncope coupled with orthostasis.  His metoprolol was 
discontinued in order to ensure we are not blocking a 
physiologic tachycardia and we also stopped terazosin 5mg PO 
QHS.  We started lisinopril 5mg PO daily for blood pressure 
control.  He was encouraged to drink a lot of fluid overnight 
and he was asymptomatic overnight with no events on telemetry.  
BP has been stable on the new regiment of hydrochlorothiazide 
and lisinopril.  Orthostatics were negative and creatinine has 
trended back to baseline.  EEG was negative to rule out seizure 
activiity.  He was conitnued on his keppra.  He was scheduled to 
go back to Rehab, but after much conversation it was decided 
that he would go home to hospice.    
.  
# Chronic low back pain with neuropathy: Patient is on 
gabapentin and oxydonone for chronic low back pain and 
neuropathy.  His pain had been difficult to control and after an 
after a night with a pain crisis, and development of urinary 
retention we got a MRI of the L spine to rule out cord 
compression.  The patient had known mets in the area, but there 
was no signs of cord compression.  His medications were titrated 
up and he was eventually discharged on oxycontin 40mg PO Q12H, 
Oxycodone ___ PO Q4H:PRN and gabapentin 300mg ___ and 
500mg QHS.  His pain was much better controlled on this 
regiment. 
.
# Metastatic renal cell: Patient diagnosed with RCC after biopsy 
of metastatic pulmonary lesion. He has metastatic involvment of 
brain, spinal cord, lungs and larynx. In ___ he was treated 
with tracheostomy for laryngeal mass. Admission chest x-ray 
shows worsening of pulmonary metastatic disease and also with 
brain mets that recently hemorrhaged, but is now stable.  CT 
scan in the ED showed stable brain lesion.  EEG was done to rule 
out seizure related to hemorrhagic mass.  He was continued on 
keppra 500mg PO BID and dexamethasone 5mg PO Daily.  He was also 
continued on Avastin as scheduled.  
.
# Bilateral DVT: While in house the patient developed right 
lower extremity edema.  His RLE was tense, but pulses were 
dopplerable.  Duplex U/S showed Extensive right lower extremity 
DVT from calf.  vascular was consulted and given the 
extensiveness of the clot and inability to anti-coagulate given 
recent sub-dural hemmorhage that conservative management was the 
best option.  Compression stocking and ACE wrap and elevation of 
the right leg significantly improved the edema and pain.  A 
pneumoboot was placed on his left leg for DVT prevention, but 2 
days later he developed LLE swelling and repeat U/S showed 
extensive clot on the left.  It was treated similarly to the 
right.
.
# Goals Of Care: At the beginning of this admission, the plan 
was to stabilize the patient's syncopal symptoms and discharge 
back to Rehab.  After the developments of extensive bilateral 
clots, we had a goals of care discussion with his family.  He 
initially wanted to speak with his priest prior to making any 
decisions.  However, the following day, he decided to make 
himself DNR/DNI and wanted a palliative care consult.  
Palliative care became involved and helped a lot with pain 
control.  In addition, we decided to start screening the patient 
for hospice placement.  The wait was extensive and he was going 
to be discharged to Rehab and then to Hospice, but ultimately 
they decided they wanted to go home with hospice.  Home hospice 
was organized and he was sent home with hospice and follow up if 
he desired.
.
# Acute on Chronic Kidney disease: Creatinine 1.4 on admission, 
but 1.1 on Day 2 of admission with baseline 1.0.  Patient was 
likely intravascularly dry given rise in creatinine that 
resolved with fluids.  He had a bump in his creatinine to 1.4 on 
day 4 that again resolved with fluids and increased PO intake.  
At the time of discharge, he was hydrating well and on the day 
of discharge his creatinine was 1.1.
.
# hypertension:  Patient was normotensive during this admission. 
 His metoprolol 50mg PO BID and terazosin 5mg PO QHS was 
discontinued and lisinopril 5mg PO daily was started.  His BP 
remained within normal limits during the course of his hospital 
stay.  
.
# Pulmonary embolism: Patient with recurrent pulmonary emboli, 
previously anticoagulated with warfarin and then changed to 
lovenox ___. Given hemorrhagic brain metastasis, 
anticoagulation is contraindicated. Status-post IVC filter 
placement by ___.  Was placed on pneumoboots for the duration of 
his hospital stay. 
. 
Code: Full confirmed  
Communication: Patient, Wife ___  
 
Medications on Admission:
1. AVASTIN 25 mg/mL Solution Sig: Ten (10) mg/kg Intravenous 
Q2week.  
2. Benadryl 25 mg Capsule Sig: ___ Capsules PO at bedtime as 
needed for insomnia.  
3. fenofibrate 50 mg Capsule Sig: Four (4) Capsule PO once a 
day.  
4. finasteride 5 mg Tablet Sig: One (1) Tablet PO at bedtime.  
5. gabapentin 300 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
6. gabapentin 100 mg Capsule Sig: Five (5) Capsule PO at 
bedtime.  
7. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.  
8. metoprolol tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
10. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
11. oxycodone 10 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO Q8H (every 8 hours).  
12. trazodone 50 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.  
13. Tylenol Extra Strength 500 mg Tablet Sig: One (1) Tablet PO 
every ___ hours as needed for pain.  
14. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO twice a day 

for 1 days.  
15. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
16. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
17. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
18. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
19. Calcium 500 + D (D3) 500-125 mg-unit Tablet Sig: Two (2) 
Tablet PO once a day.  
20. ergocalciferol (vitamin D2) 400 unit Tablet Sig: Two (2) 
Tablet PO once a day.  
21. Fiber-Tabs 625 mg Tablet Sig: Four (4) Tablet PO once a day. 

22. multivitamin     Tablet Sig: One (1) Tablet PO once a day.  
23. Omega ___ 1,200 mg Capsule Sig: One (1) Capsule PO once a 
day.  
24. terazosin 5 mg Capsule Sig: One (1) Capsule PO once a day.  
25. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO once a day. 


 
Discharge Medications:
1. AVASTIN 25 mg/mL Solution Sig: Ten (10) mg/kg Intravenous 
Q2Week.  
2. diphenhydramine HCl 25 mg Capsule Sig: One (1) Capsule PO Q6H 
(every 6 hours) as needed for insomnia.
Disp:*60 Capsule(s)* Refills:*2*
3. fenofibrate 50 mg Capsule Sig: Four (4) Capsule PO once a 
day.
Disp:*120 Capsule(s)* Refills:*2*
4. finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. gabapentin 300 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
6. gabapentin 100 mg Capsule Sig: Five (5) Capsule PO HS (at 
bedtime).
Disp:*150 Capsule(s)* Refills:*2*
7. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
9. trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
10. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).
Disp:*60 Tablet(s)* Refills:*2*
11. dexamethasone 4 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
12. Tylenol Extra Strength 500 mg Tablet Sig: One (1) Tablet PO 
every ___ hours.  
13. senna 8.6 mg Tablet Sig: Two (2) Tablet PO twice a day: can 
hold for loose stools.
Disp:*120 Tablet(s)* Refills:*2*
14. docusate sodium 100 mg Capsule Sig: Two (2) Capsule PO BID 
(2 times a day).
Disp:*120 Capsule(s)* Refills:*2*
15. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
16. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  
PO once a day as needed for constipation.
Disp:*30 packets* Refills:*0*
17. Calcium 500 + D (D3) 500-125 mg-unit Tablet Sig: Two (2) 
Tablet PO once a day.  
18. ergocalciferol (vitamin D2) 400 unit Tablet Sig: Two (2) 
Tablet PO once a day.  
19. Fiber-Tabs 625 mg Tablet Sig: Four (4) Tablet PO once a day. 
 
20. Omega ___ 1,200 mg Capsule Sig: One (1) Capsule PO once a 
day.  
21. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 1 days.
Disp:*2 Tablet(s)* Refills:*0*
22. oxycodone 10 mg Tablet Sig: ___ Tablets PO Q3H as needed for 
pain.
Disp:*100 Tablet(s)* Refills:*0*
23. bisacodyl 10 mg Suppository Sig: Two (2) Suppository Rectal 
DAILY (Daily) as needed for constipation: give if has not had BM 
for greater than 1 day.
Disp:*60 Suppository(s)* Refills:*2*
24. magnesium hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.
Disp:*300 ML(s)* Refills:*0*
25. oxycodone 40 mg Tablet Extended Release 12 hr Sig: One (1) 
Tablet Extended Release 12 hr PO every twelve (12) hours.
Disp:*60 Tablet Extended Release 12 hr(s)* Refills:*2*
26. hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Syncope
.
Secondary diagnosis:
Metastatic renal cell cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You are being discharged from ___ 
___.   It was a pleasure taking care of you.  You were 
admitted after you lost consciousness at ___.  After 
a thorough evaluation, we feel that this event was likely 
medication induced as well as related to a decrease in your 
fluid intake.  We adjusted your medications to reduce this risk 
and we did some testing to show that you did not have a seizure 
and there are no abnormal heart rhythms.  While you were here 
you also developed clots in your legs and they became very 
swollen.  You are also having some difficulty urinating and will 
require a Foley Catheter for now.  After long discussion with 
you and your family, we have decided to discharge you to home 
with hospice.
.
The Following medication was STARTED:
lisinopril 5mg by mouth Daily
Oxycontin 40mg by mouth Every 12 hours
Oxycodone ___ by mouth every 3 hours only if needed for pain
Senna 2 tabs twice a day (can hold for loose stools)
Colace 200mg by mouth twice a day (can hold for loose stools)
.
The Following medication was STOPPED:
metoprolol 50mg by mouth twice a day
Terazosin 5mg by mouth at night
.
Please take your other medications as prescribed.
 
Followup Instructions:
___